US05192786
(E)-4-(1H-Imidazol-1-yl)butoxystilbene hydrochloride
A solution of the (E)-4-chlorobutoxystilbene (2.0 g, 7.0 mmol) and imidazole (1.0 g, 14 mmol) in 20 mL of 2-methoxyethyl ether was heated to 120° C. for 24 hours. The solvent was removed by distillation and the resulting residue was chromatographed (flash, SiGel, 9:1 CH2Cl2 -MeOH). The hydrochloride salt was made in HCl/MeOH and recrystallized from acetone to give 2.7 g (95%) of the title compound as an off-white solid. m.p. 208°-210° C. IR(KBr): 3400,1590cm-1. MS: 319(MH)+. 1H NMR(CD3OD): δ9.21(s,1H), 7.65-6.82(m,13H), 4.35(t,2H), 4.02 (t,2H), 2.01(m,4H).

reactant | (E)-4-chlorobutoxystilbene | 7.0 mmol, 2.0 g | ClCCCCOC1=C(C=CC=C1)\C=C\C1=CC=CC=C1 | C18H19ClO
reactant | imidazole | 14 mmol, 1.0 g | N1C=NC=C1 | C3H4N2
solvent | 2-methoxyethyl ether | 20 mL | COCCOCCOC | C6H14O3
product | (E)-4-(1H-Imidazol-1-yl)butoxystilbene hydrochloride | 2.7 g, 95% | Cl.N1(C=NC=C1)CCCCOC1=C(C=CC=C1)\C=C\C1=CC=CC=C1 | InChI=1S/C21H22N2O.ClH/c1-2-8-19(9-3-1)12-13-20-10-4-5-11-21(20)24-17-7-6-15-23-16-14-22-18-23;/h1-5,8-14,16,18H,6-7,15,17H2;1H/b13-12+;
